US08138187B2
1-(2-(1H-Indol-3-yl)ethyl)-1H-benzo[d]imidazole (Ind-70)
A solution of 3-(2-bromo-ethyl)-1H-indole (4.48 g, 20 mmol) and benzimidazole (4.72 g, 40 mmol) in abs. dioxane (50 ml) was stirred at 90° C. for 13 h. The solvent was then removed i. vac., CHCl3 (200 ml) was added to the residue and the mixture was washed twice with water. The organic phase was dried over Na2SO4 and concentrated i. vac. and the residue which remained was purified by flash chromatography with CHCl3/MeOH (40:1). Yield: 1.32 g (25%), pale brown solid

reactant | 3-(2-bromo-ethyl)-1H-indole | 20 mmol, 4.48 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | benzimidazole | 40 mmol, 4.72 g | N1=CNC2=C1C=CC=C2 | C7H6N2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1-(2-(1H-Indol-3-yl)ethyl)-1H-benzo[d]imidazole | N1C=C(C2=CC=CC=C12)CCN1C=NC2=C1C=CC=C2 | C17H15N3
